US04902796
Alternatively, 2-amino-4-hydroxy-6-[(4-carboxyphenyl)ethynyl]pyrido[2,3-d]pyrimidine, prepared as described in Example 5, is heated in refluxing pivalic anhydride according to the procedure of Example 6 to yield 2-pivaloyl-4-hydroxy-6-[(4-carboxyphenyl)ethynyl]pyrido[2,3-d]pyrimidine.

reactant | 2-amino-4-hydroxy-6-[(4-carboxyphenyl)ethynyl]pyrido[2,3-d]pyrimidine | NC=1N=C(C2=C(N1)N=CC(=C2)C#CC2=CC=C(C=C2)C(=O)O)O | C16H10N4O3
reactant | pivalic anhydride | C(C(C)(C)C)(=O)OC(C(C)(C)C)=O | C10H18O3
product | 2-pivaloyl-4-hydroxy-6-[(4-carboxyphenyl)ethynyl]pyrido[2,3-d]pyrimidine | C(C(C)(C)C)(=O)C=1N=C(C2=C(N1)N=CC(=C2)C#CC2=CC=C(C=C2)C(=O)O)O | C21H17N3O4
